data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(C)C[C:20](=[O:21])Cl.COC1=CC(=C(C=C1)OC)C[OH:10]>>CC(C)C[C:20]([O-:21])([OH+:10]CC1=C(C=CC(=C1)OC)OC)Cl 10=20;20,21=21
C[C:11](=[N:20][OH2+:21])[C:10](C)(C)C.OS(=O)(=O)[O-]>>C[C+:11]=[N:20][C:10](C)(C)C.[OH2:21].OS(=O)(=O)[O-] 10,11=10,20;20,21=21
CC1C2CC(CC1O[I:10]3(C4=C(C=CC=C4)C(=O)O3)(OC(=O)C)[O:11]C(=O)C)(C(=O)C5=C2C(=CN5COCC[Si](C)(C)C)C6=CN=C(C(=N6)OC)C7=CN(C8=CC(=CC=C87)Br)S(=O)(=O)C9=CC=C(C=C9)C)OC.CC(=O)O>>CC1C2CC(CC1O[I+:10]3(C4=C(C=CC=C4)C(=O)O3)OC(=O)C)(C(=O)C5=C2C(=CN5COCC[Si](C)(C)C)C6=CN=C(C(=N6)OC)C7=CN(C8=CC(=CC=C87)Br)S(=O)(=O)C9=CC=C(C=C9)C)OC.CC(=O)[O-:11].CC(=O)O 10,11=11
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC(=C2)C(=O)C)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=O)C1=CC2=C(C=C1)[C:21](=[CH:22]C=C2)S(=O)(=O)O 10=20;20,21=21,22
[H:20][OH2+:21].CC1C(=C(OC1(C2=CC(=C(C=C2)OC)OC)[OH:10])C3=CC(=C(C=C3)OC)OC)C.CO.[Cl-]>>[H:20][OH+:10]C1(C(C(=C(O1)C2=CC(=C(C=C2)OC)OC)C)C)C3=CC(=C(C=C3)OC)OC.[OH2:21].CO.[Cl-] 10=20;20,21=21
CC(C)[C+:20]1CCCC1.[OH2:10]>>CC(C)[C:20]1(CCCC1)[OH2+:10] 10=20,
[H:20][OH:21].[C-:10](Br)(Br)Br.COC1=C(C(=CC=C1)C#N)C(=O)C2=C(C=C(C=C2OC)C(=O)[O-])OC.[Na+].[Br-]>>[H:20][C:10](Br)(Br)Br.[OH-:21].COC1=C(C(=CC=C1)C#N)C(=O)C2=C(C=C(C=C2OC)C(=O)[O-])OC.[Na+].[Br-] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.COC(C1=CC=CC=C1)(O)[OH:10]>>[H:20][OH+:10]C(C1=CC=CC=C1)(O)OC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][OH+:21]C1(CCCO1)O.[OH2:10]>>[H:20][OH2+:10].C1CC(OC1)([OH:21])O 10=20;20,21=21
C1=CC2=CC=C(C=C2[CH:10]=[CH:11]1)S(=O)(=O)O.[N+:20](=O)=[O:21]>>C1=CC2=CC=C(C=C2[CH:10]([CH+:11]1)[N+:20](=O)[O-:21])S(=O)(=O)O 10,11=10,20;20,21=21
[B-:13]1(OC(C(O1)(C)C)(C)C)([CH2:12][CH:11]=[CH:10]C)[O+:21]=[CH:20]C2=CC=CC=C2>>[B:13]1(OC(C(O1)(C)C)(C)C)[O:21][CH:20](C2=CC=CC=C2)[CH:10](C)[CH:11]=[CH2:12] 10,11=10,20;20,21=21;12,13=11,12
CCO[S:20](=O)(C)([O-:10])[Cl:21]>>CCO[S:20](=O)(=[O:10])C.[Cl-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC1=C2C(=C(C3=C1C=CN=C3)C)C4=CC(=CC=C4N2C)C(O)O[OH:10]>>[H:20][OH+:10]OC(C1=CC=C2C(=C1)C3=C(C4=C(C=CN=C4)C(=C3N2C)C)C)O.OS(=O)(=O)[O-:21] 10=20;20,21=21
[CH2:10]=[OH+:11]>>[CH2+:10][OH:11] 10,11=11
CCN[C:22](=[O:23])[CH:21]=[CH2:20].C[C:11](=[CH2:10])[N:12]1CCCC1>>CCN[C:22](=[CH:21][CH2:20][CH2:10][C:11](=[N+:12]1CCCC1)C)[O-:23] 10,11=10,20;12=11;22,23=23;20,21=21,22
C[P+:20](C)(C)Br.[OH2:10]>>C[P:20](C)(C)([OH2+:10])Br 10=20,
[H:20][Br:21].[C-:10]#CCC1=C(C=CC=C1)N>>[H:20][C:10]#CCC1=C(C=CC=C1)N.[Br-:21] 10=20;20,21=21
[H:20][Br:21].CC1C([O:10]1)(C)C>>[H:20][O+:10]1C(C1(C)C)C.[Br-:21] 10=20;20,21=21
CCC[CH+]C(C)(C=NC(C)(C)C)[Si:20](CC)(CC)CC.C(=O)(C(F)(F)F)[O-:10].O>>CCC[CH+]C(C)(C=NC(C)(C)C)[Si-:20](CC)(CC)(CC)[O:10]C(=O)C(F)(F)F.O 10=20,
[H:20][O+:21]=C(C1=C(SC=C1)Br)OC.[OH2:10].CO.OS(=O)(=O)[O-]>>[H:20][OH2+:10].COC(=[O:21])C1=C(SC=C1)Br.CO.OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][N+:21](CC)(CC)CC.CC1=C(C(=C(C(=C1Cl)O)C(C2=C(C(=CC(=C2CC=C(C)C)O)O)C=O)[OH:10])[O-])Cl>>[H:20][OH+:10]C(C1=C(C(=CC(=C1CC=C(C)C)O)O)C=O)C2=C(C(=C(C(=C2O)Cl)C)Cl)[O-].CC[N:21](CC)CC 10=20;20,21=21
C1CC[C:20](=[O:21])C1.C1CC[NH:10]C1.CC1=CC=C(C=C1)S(=O)(=O)O>>C1CC[C:20](C1)([NH+:10]2CCCC2)[O-:21].CC1=CC=C(C=C1)S(=O)(=O)O 10=20;20,21=21
CC(=[N+]1CCCC1)C[C:20](C)([O-:10])[O:21]C(=O)C=C>>CC(=[N+]1CCCC1)C[C:20](=[O:10])C.C=CC(=O)[O-:21] 10=20;20,21=21
CC12CC[C:20](=[O+:21]CC[OH:10])CC1CCC2=O.C(=O)(C(=O)[O-])O.O>>CC12CC[C:20]3(CC1CCC2=O)[OH+:10]CC[O:21]3.C(=O)(C(=O)[O-])O.O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.[OH2:10]>>[H:20][OH2+:10].OS(=O)(=O)[O-:21] 10=20;20,21=21
COC1=C(C2=C(CC3C4=C(CC[N:10]3C2)C=C5C(=C4)OCO5)C=C1)OC.C1=CC(=CC(=C1)[C:22](=[OH+:23])[O:21][O-:20])Cl>>COC1=C(C2=C(CC3C4=C(CC[N+:10]3(C2)[O-:20])C=C5C(=C4)OCO5)C=C1)OC.C1=CC(=CC(=C1)[C:22](=[O:21])[OH:23])Cl 10=20;20,21=21,22;22,23=23
[H:20][OH2+:21].CC1=CC=C(C=C1)C2CCC(CC2)(O)[O:10]CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C>>[H:20][O+:10](CCO)C1(CCC(CC1)C2=CC=C(C=C2)C)O.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C 10=20;20,21=21
CN(C)C1=CC=[N+](C=C1)[C:20](C2=CC=CC=C2)([O-:10])[Cl:21].C1=CC=NC=C1.C1=CC(=C(C=C1)[N+](=O)[O-])N>>CN(C)C1=CC=[N+](C=C1)[C:20](=[O:10])C2=CC=CC=C2.[Cl-:21].C1=CC=NC=C1.C1=CC(=C(C=C1)[N+](=O)[O-])N 10=20;20,21=21
CC1=CC=C(C=C1)[S:20](=O)([O-:10])(ON=C2C3CCC2CC=CC3)[Cl:21].O.[Na+]>>CC1=CC=C(C=C1)[S:20](=O)(=[O:10])ON=C2C3CCC2CC=CC3.[Cl-:21].O.[Na+] 10=20;20,21=21
[H:20][O+:21](C)P(N(C)C)(OC)OC.C[OH:10]>>CN(C)P(OC)(OC)[O:21]C.[H:20][OH+:10]C 10=20;20,21=21
CCCC=[O+:11][Na:10].[BH4-]>>CCCC=[O:11].[Na+:10].[BH4-] 10,11=11
C1=CO[CH:10]=[CH:11]1.[N+:20](=O)=[O:21]>>C1=CO[CH:10]([CH+:11]1)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
C[CH:20]1[NH2+:21]CCC[O:10]1>>C[CH:20]=[O+:10]CCC[NH2:21] 10=20;20,21=21
[H:20][OH2+:21].CCC(C)(C(C)C1=CC=CC=C1)[O-:10]>>[H:20][O:10]C(C)(CC)C(C)C1=CC=CC=C1.[OH2:21] 10=20;20,21=21
C[C:10](=C)[Mg:11]Br.CC(=O)O[C:20](=[O:21])C>>C[C:10](=C)[C:20](C)([O-:21])OC(=O)C.[Mg+:11]Br 10,11=10,20;20,21=21
